US07429612B2
N-[5-(N-tert-butoxycarbonylsulfamoylamino)-4,6-dimethyl-1-octylindolin-7-yl]-2,2-dimethylpropanamide
tert-Butanol (0.85 mL) was dissolved in methylene chloride (17 mL) and chlorosulfonyl isocyanate (0.77 mL) was added at −18° C. The mixture was stirred at the same temperature for 30 min and N-(5-amino-4,6-dimethyl-1-octylindolin-7-yl)-2,2-dimethylpropanamide (1.66 g) and triethylamine (1.24 mL) were added. The mixture was further stirred at −5° C. for 30 min. Methylene chloride (50 mL) was added, and the mixture was washed successively with 10% aqueous citric acid, saturated aqueous sodium hydrogencarbonate, and then saturated brine (50 mL) and dried over sodium sulfate. Then, methylene chloride was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as crystals (1.9 g).

reactant | tert-Butanol | 0.85 mL | C(C)(C)(C)O | C4H10O
reactant | chlorosulfonyl isocyanate | 0.77 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | N-(5-amino-4,6-dimethyl-1-octylindolin-7-yl)-2,2-dimethylpropanamide | 1.66 g | NC=1C(=C2CCN(C2=C(C1C)NC(C(C)(C)C)=O)CCCCCCCC)C | C23H39N3O
reactant | triethylamine | 1.24 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 17 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[5-(N-tert-butoxycarbonylsulfamoylamino)-4,6-dimethyl-1-octylindolin-7-yl]-2,2-dimethylpropanamide | 1.9 g | C(C)(C)(C)OC(=O)NS(=O)(=O)NC=1C(=C2CCN(C2=C(C1C)NC(C(C)(C)C)=O)CCCCCCCC)C | C28H48N4O5S
